US09376398B2
(vi) ethyl 2-(ethylamino)acetate
Sulfuric acid (3 mL) was added to a solution of N-ethylglycine (2.0 g) in EtOH (15 mL) and the mixture was stirred under reflux for 9 h. The mixture was cooled to RT and neutralized with 5M-sodium hydroxide, and saturated aqueous sodium hydrogen carbonate. The solution was extracted with EtOAc, the combined organic layer was washed with brine, dried and concentrated under reduced pressure. The sub-title compound (1.4 g) was obtained as a pale yellow oil; 1H NMR (300 MHz, CDCl3); 4.17 (2H, q), 3.38 (2H, s), 2.63 (2H, q), 1.25 (3H, t), 1.10 (3H, t).

reactant | Sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-ethylglycine | 2.0 g | C(C)NCC(=O)O | C4H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | EtOH | 15 mL | CCO | C2H6O
product | ethyl 2-(ethylamino)acetate | 1.4 g | C(C)NCC(=O)OCC | C6H13NO2
